US07553840B2
80 mg of (S)-3-[4-(2-amino-6-{1-[2-(6-cyanopyridin-3-yl)-phenyl]-2,2,2-trifluoro-ethoxy}-pyrimidin-4-yl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid was dissolved in the solution of 30% trifluoro acetic acid in dichloromethane (5 ml). The mixture was stirred at room temperature for 1 hour. The solvent was evaporated and the residue was purified by preparative HPLC to give 12.6 mg of (S)-2-amino-3[4-(2-amino-6-{1-[2-(6-cyano-pyridin-3-yl)-phenyl]-2,2,2-trifluoro-ethoxy}-pyrimidin-4-yl)-phenyl]-propionic acid. 1H NMR (400 MHz, CD3OD) δ (ppm) 8.86 (s, 1H), 8.17 (d, J=2 Hz, 1H), 8.15 (d, J=2 Hz, 1H), 7.96 (m, 2H), 7.59 (m, 1H), 7.36 (m, 3H), 6.7 (s, 1H), 6.65 (d, J=6.8 Hz, 1H), 4.25 (m, 1H), 3.47 (m, 1H), 3.23 (m, 1H).

reactant | (S)-3-[4-(2-amino-6-{1-[2-(6-cyanopyridin-3-yl)-phenyl]-2,2,2-trifluoro-ethoxy}-pyrimidin-4-yl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid | 80 mg | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)OC(C(F)(F)F)C1=C(C=CC=C1)C=1C=NC(=CC1)C#N | C32H29F3N6O5
solvent | trifluoro acetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-2-amino-3[4-(2-amino-6-{1-[2-(6-cyano-pyridin-3-yl)-phenyl]-2,2,2-trifluoro-ethoxy}-pyrimidin-4-yl)-phenyl]-propionic acid | 12.6 mg | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C=1C=NC(=CC1)C#N)N | C27H21F3N6O3
